US07365231B2
Bis(4-(4-amino-3-hydroxyphenoxy)phenyl)sulfone was synthesized in a manner analogous to Example 2 from bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)sulfone. Yield: 83.5%; mp 228˜231° C.; IR (KBr): 3318, 1577, 1511 cm−1; MS (EI) m/z 464 (M+, 100); Elemental Anal. Calcd. for C24H20N2O6S: C, 62.07; H, 4.31; N, 6.03. Found: C, 61.83; H, 4.39; N, 5.96.

reactant | bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)sulfone | OC=1C=C(OC2=CC=C(C=C2)S(=O)(=O)C2=CC=C(C=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C24H16N2O10S
reactant | KBr | [K+].[Br-]
product | Bis(4-(4-amino-3-hydroxyphenoxy)phenyl)sulfone | Yield: 83.5% | NC1=C(C=C(OC2=CC=C(C=C2)S(=O)(=O)C2=CC=C(C=C2)OC2=CC(=C(C=C2)N)O)C=C1)O | C24H20N2O6S
